data/oMe_Silver.jsonl
{"reaction_id": "NR-221_1-c4ccc(OC)cc4_2-C(=O)OCC","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccc(OC)cc4)(C(=O)OCC)"],"products_smiles": ["C1(c4ccc(OC)cc4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccc(OC)cc4)(C(=O)OCC)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccc(OC)cc4 and C(=O)OCC, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccc(OC)cc4)(C(=O)OCC)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccc(OC)cc4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
{"reaction_id": "NR-073_1-C(C)(C)C_2-c1ccccc1","name": "Fritsch-Buttenberg-Wiechell Rearrangement","level": "medium","reactants_smiles": ["C(=C(Br))(C(C)(C)C)(c1ccccc1)"],"products_smiles": ["C(C(C)(C)C)#C(c1ccccc1)"],"conditions": "Base (e.g., LDA)","mechnism_text_description": "The Fritsch-Buttenberg-Wiechell rearrangement begins with the deprotonation of the vinylic hydrogen by a strong base, forming a vinyl anion. This is followed by an α-elimination of the halide, which generates a vinyl carbene intermediate. The final step involves a 1,2-migration of one of the R groups, leading to the formation of the alkyne product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[C-]Br)(C(C)(C)C)(c1ccccc1)","step_weight": 0,"rationale": "LDA, a strong non-nucleophilic base, abstracts the acidic vinylic proton due to the adjacent electron-withdrawing bromine, stabilizing the resulting vinyl anion via inductive effects."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(C(C)(C)C)(c1ccccc1)","step_weight": 0,"rationale": "The negatively charged carbon promotes α-elimination of bromide, a good leaving group, forming a high-energy vinyl carbene stabilized transiently by adjacent substituents."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C(C)(C)C)#C(c1ccccc1)","step_weight": 0,"rationale": "The carbene undergoes a 1,2-shift of C(C)(C)C or c1ccccc1 to relieve electron deficiency, forming the more stable, conjugated alkyne via rehybridization to sp."}],"description": "A strong base deprotonates the vinylic position to generate a vinyl anion, which undergoes α-elimination of bromide to form a reactive vinyl carbene. A 1,2-shift of an R group then produces the thermodynamically stable alkyne product."}
